US07781478B2
1-Ethyl-3-formyl-1H-indole-6-carboxylic acid methyl ester (800 mg, 3.5 mmol), prepared as shown in example 1P, step A, is dissolved in acetone (98 mL). A solution of KMnO4 (655 mg, 4.15 mmol) in H2O (31 mL) is added. The reaction mixture is stirred at room temperature for 90 minutes. Another addition of KMnO4 (108 mg) in H2O (6 mL), followed by stirring for another 45 minutes is required to drive the reaction to completion. The reaction mixture is then quenched with 10% H2O2 (1.5 mL). The mixture is filtered through celite. The filtrate is stripped down under vacuum to roughly ⅓ of the volume. The residue is acidified with 6N HCl, and is extracted into ethyl acetate. The solids isolated from the ethyl acetate layer are triturated with acetone to yield 1-ethyl-1H-indole-3,6-dicarboxylic acid 6-methyl ester (696 mg, 79%) as a light orange solid.

reactant | 1-Ethyl-3-formyl-1H-indole-6-carboxylic acid methyl ester | 3.5 mmol, 800 mg | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C=O | C13H13NO3
reactant | KMnO4 | 4.15 mmol, 655 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | KMnO4 | 108 mg | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 98 mL | CC(=O)C | C3H6O
solvent | H2O | 31 mL | O | H2O
solvent | H2O | 6 mL | O | H2O
product | 1-ethyl-1H-indole-3,6-dicarboxylic acid 6-methyl ester | 696 mg, 79% | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C(=O)O | C13H13NO4
